US07960419B2
Add diphenylphosphinodithioic acid (13.2 g, 52.9 mmol) to a solution of 3-amino-3-[4-(1,1-difluoroethyl)phenyl]acrylonitrile (5.50 g, 26.4 mmol) in propan-2-ol (264 mL). Heat to 45° C. for 4 h. Dilute with EtOAc (400 mL), wash with brine 3× (100 mL), and evaporate. Crystallize from EtOAc/hexane to afford 3-amino-3-[4-(1,1-difluoroethyl)-phenyl]thioacrylamide. Yield: 67.2%. ES-MS: m/e 243.0 (m+1).

reactant | diphenylphosphinodithioic acid | 52.9 mmol, 13.2 g | C1(=CC=CC=C1)P(=S)(S)C1=CC=CC=C1 | C12H11PS2
reactant | 3-amino-3-[4-(1,1-difluoroethyl)phenyl]acrylonitrile | 26.4 mmol, 5.50 g | NC(=CC#N)C1=CC=C(C=C1)C(C)(F)F | C11H10F2N2
solvent | propan-2-ol | 264 mL | CC(C)O | C3H8O
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
product | 3-amino-3-[4-(1,1-difluoroethyl)-phenyl]thioacrylamide | Yield: 67.2% | NC(=CC(=S)N)C1=CC=C(C=C1)C(C)(F)F | C11H12F2N2S
